 * TSMC 65nm OTA Simulation
* Marco Gonzalez & Léopold Van Brandt
* October 2022
*-----------------------------------------------

************************************
*	Library & Technology settings
************************************

* Library containing the transistor model from the foundry
.lib "/dir/TECHNOLOGY/cds2017/TSMC-N65/CMOS/LP/pdk/T-N65-CM-SP-007-K3_1_7A/models/eldo/crn65lp_2d5_lk_v1d7.eldo" TT_lvt
.lib "/dir/TECHNOLOGY/cds2017/TSMC-N65/CMOS/LP/pdk/T-N65-CM-SP-007-K3_1_7A/models/eldo/crn65lp_2d5_lk_v1d7.eldo" TT_hvt

* Complementary technological librairies
.lib "/dir/TECHNOLOGY/cds2017/TSMC-N65/CMOS/LP/pdk/T-N65-CM-SP-007-K3_1_7A/models/eldo/crn65lp_2d5_lk_v1d7.eldo" stat_noise

*******************************
*	Options
*******************************

* Temperature
.temp 25

* Maximal time step
.option HMAX = dt

* To tune the accuracy of the simulation (related to the numerical methods, beyond the scope of this course; check the manual)
.option EPS = 1e-8

*only one activate at the same time
* #define mean activate
* !#define mean desactivation 
#define AC 1
!#define STEP 1
!#define PSRR 1
!#define CMRR 1
!#define SR 1
!#define CL 1


*******************************
*	Design Parameters
*******************************

*** Supply voltage
.param vdd_val = 1

*** Load capacitance
.param Cl = 1p

*** Feed Back Capacitor

.param Cf = 250f
.param Cf2= 250f


***** Default Design from TP4

*#com
* B = 1
* gm_over_ID1 = 5
* gm_over_ID4 = 5
* gm_over_ID7 = 5
* gm_over_ID9 = 5

*** Transistor dimensions

.param B = 1
.param L = 1u

.param W1 = 4.5u
.param L1 = 0.4u
.param W2 = 4.5u
.param L2 = 0.4u

.param W3 = 0.5u
.param L3 = 0.4u
.param W4 = 0.5u
.param L4 = 0.4u

.param W5 = 1u
.param L5 = 0.4u
.param W6 = 3u
.param L6 = 0.4u

.param W7 = 1u
.param L7 = 0.4u



* no datas begin
.param W8 = 1u
.param L8 = 0.4u

* no datas end


.param W10 = 3u
.param L10 = 0.4u

.param W11 = 12u
.param L11 = 0.4u

.param W12 = 5u
.param L12 = 0.4u

.param W13 = 0.5u
.param L13 = 0.4u

.param W14 = 0.5u
.param L14 = 0.4u

.param W15 = 3u
.param L15 = 0.4u

.param W16 = 0.5u
.param L16 = 0.4u

.param W17 = 1.5u
.param L17 = 0.4u

*** Bias point

.param VIN = 0.43
.param IBIAS = 45u
*#endcom


*** AC simulation parameters

.param V0 = 5m
.param fmin = 0.0000001
.param fmax = 1e10

*** TRAN simulation parameters

.param fT = 1Mega
* total duration of the simulation
.param T = {10/fT}
* time step
.param dt = {0.01/fT}
* Delay of the input step
.param td = {100*dt}
* Rise time of the input step
.param tr = 10p
* Parameters for a periodic pulse signal (see reference manual)

*tr = 10 p STEP tr = 10u CMRR
.param tf = 10p
.param pw = {T-tr-tf}
.param per = {2*T}
.param vpulse_val = 0.6
.param step = 0.01


.param tr_CMRR = 10u
.param tf_CMRR = tr_CMRR
.param pw_CMRR = 1p

*******************************
*	Device under test
*******************************

***** OTA

* Reminder
* xMN D G S B

xM1 G34 INm D125 D125 pch_lvt_mac w = W1 l = L1
xM2 G7 INp D125 D125 pch_lvt_mac w = W2 l = L2

xM3 G34 G34 GND GND nch_lvt_mac w = W3 l = L3
xM4 G7  G34 GND GND nch_lvt_mac w = W4 l = L4

xM5 D125 G5689 VDD VDD pch_lvt_mac w = W5 l = L5
xM6 OUT1 G5689 VDD VDD pch_lvt_mac w = W6 l = L6

xM7 OUT1 G7 GND GND nch_lvt_mac w = W7 l = L7
xM8 G5689 G5689 VDD VDD pch_lvt_mac w = W8 l = L8

xM10 OUT G1017 VDD VDD pch_lvt_mac w = W10 l = L10
xM11 OUT G5689 VDD VDD pch_lvt_mac w = W11 l = L11

xM12 OUT X GND GND nch_hvt_mac w = W12 l = L12
xM13 X X GND GND nch_hvt_mac w = W13 l = L13
xM14 X G34 GND GND nch_hvt_mac w = W14 l = L14

xM15 X G5689 VDD VDD pch_lvt_mac w = W15 l = L15

xM16 G1017 OUT1 GND GND nch_lvt_mac w = W16 l = L16
xM17 G1017 G1017 VDD VDD pch_lvt_mac w = W17 l = L17

* Load capacitance
Cload OUT GND Cl

* FeedBack capacitance
Cc2 OUT1 G7 Cf
Ccl OUT G7 Cf2

**********************************
*	Supply and stimuli
**********************************

*** Ideal current source
IIbias G5689 GND DC IBIAS

*** Ground
* absolute voltage reference
.connect GND 0

*** Supply voltage
VVDD VDD GND DC vdd_val 

***PSRR***
*VVDD VDD GND DC vdd_val AC +V0 

*** Input Voltages Sources

***** DC & AC *****

#if (defined (AC)) 
VVINp INp GND DC VIN AC +V0
VVINm INm GND DC VIN AC -V0
#endif

***** Step response *****
#if (defined (STEP))
*** Negative feedback loop
.connect INm OUT
VVINp INp GND pulse vpulse_val 'vpulse_val+step' td tr tf pw per
#endif


***** Slew Rate *****
#if (defined (SR))
*** Negative feedback loop
.connect INm OUT
VVINp INp GND pulse '0' 'vpulse_val+step' td tr tf pw per
#endif

***** CMRR *****
#if (defined (CMRR)) 
VVINp INp GND DC VIN AC +V0
VVINm INm GND DC VIN AC +V0
#endif

***PSRR***
#if (defined (PSRR)) 
VVINp INp GND DC vpulse_val
VVINm INm GND DC vpulse_val
#endif

***** Closed-loop stability *****
#if (defined (CL)) 
*** Zero-voltage voltage source
*** In DC it behaves like a short circuit
*** In AC it measures the loop stability
*** The positive pin is the new input and the negative pin is the new output
VSTB INm OUT
*** The positive input must still be biased in DC, but no AC component is needed
VVINp INp 0 DC VIN
#endif

**********************************
*	Simulations and Measurements
**********************************

***** DC *****

*****************************************************************************************
** Determines the DC operating point of the circuit.
**
** Note: a .OP command is always automatically performed prior to an AC analysis.
** If no other analysis is specified, a .OP command forces a DC analysis to be performed
** after the operating point has been calculated.
**
** Results are displayed on your SSH terminal.
*****************************************************************************************

.OP

*** To be compared with the output of the Python design script!
*** /!\ The saturation of ALL transistors must be verified (cfr 'OTA.chi' file)
*** Enjoy the symmetry of the OTA!

.extract DC label=VDD V(VDD)
.extract DC label=IN V(INp)
.extract DC label=VOUT V(OUT)
.extract DC label=VSG12 -VGS(xM1.MAIN)
.extract DC label=VSD1 -VDS(xM1.MAIN)
.extract DC label=VSD2 -VDS(xM2.MAIN)

.extract DC label=VSG34 VGS(xM3.MAIN)
.extract DC label=VDS3 VDS(xM3.MAIN)
.extract DC label=VDS4 VDS(xM4.MAIN)

.extract DC label=VSG568 -VGS(xM5.MAIN)
.extract DC label=VSD5 -VDS(xM5.MAIN)
.extract DC label=VSD6 -VDS(xM6.MAIN)
.extract DC label=VSD8 -VDS(xM8.MAIN)



*** Currents
.extract DC label=ID1 I(xM1.MAIN.S)
.extract DC label=ID2 I(xM2.MAIN.S)
.extract DC label=ID3 I(xM3.MAIN.D)
.extract DC label=ID4 I(xM4.MAIN.D)
.extract DC label=ID5 I(xM5.MAIN.S) 
.extract DC label=ID6 I(xM6.MAIN.S)
.extract DC label=ID7 I(xM7.MAIN.D)
.extract DC label=ID8 I(xM8.MAIN.S)


* (gm/ID)'s
.extract DC label=gm_over_ID1 'gm(xM1.MAIN)/ID1'
.extract DC label=gm_over_ID2 'gm(xM2.MAIN)/ID2'
.extract DC label=gm_over_ID3 'gm(xM3.MAIN)/ID3'
.extract DC label=gm_over_ID4 'gm(xM4.MAIN)/ID4'
.extract DC label=gm_over_ID5 'gm(xM5.MAIN)/ID5'
.extract DC label=gm_over_ID6 'gm(xM6.MAIN)/ID6'
.extract DC label=gm_over_ID7 'gm(xM7.MAIN)/ID7'
.extract DC label=gm_over_ID8 'gm(xM8.MAIN)/ID8'

* Power consumption
.extract DC label=Power '-V(VDD)*I(VVDD)'

***** AC *****

#if (defined (AC)) 
.AC dec 100 fmin fmax

*** Gain
.defwave Av = 'v(OUT)/(v(INp)-v(INm))'
.extract AC label=Av0 'max(wdb(Av))'
*** Transition Frequency
.extract AC label=fT 'xthres(wdb(Av),0)'
*** Phase Margin
.extract AC label=Phase_Margin '180 - yval(wp(Av),1) + xycond(wp(Av),wdb(Av)<0)'

*** Bode diagram (amplitude and phase)
.plot AC w(Av)
#endif

***** TRAN *****
* The step response of the closed-loop amplifier

#if (defined (STEP)) 
.TRAN 0 T

.defwave TRAN err = db((V(INp)-V(OUT)-IN+VOUT)/(V(INp)-IN))
.plot TRAN V(INp) V(OUT) w(err)
#endif

***** CMRR *****
* The step response of the closed-loop amplifier

#if (defined (CMRR)) 
.AC dec 100 fmin fmax

*** Gain
.defwave Av = 'v(OUT)/(v(INp))'
.extract AC label=Av0 'max(wdb(Av))'
*** Transition Frequency
.extract AC label=fT 'xthres(wdb(Av),0)'
*** Phase Margin
.extract AC label=Phase_Margin '180 - yval(wp(Av),1) + xycond(wp(Av),wdb(Av)<0)'

*** Bode diagram (amplitude and phase)
.plot AC w(Av)
#endif

***** PSRR *****
#if (defined (PSRR)) 
.AC dec 100 fmin fmax

*** Gain
.defwave Av = 'v(OUT)/(v(VDD))'
.extract AC label=Av0 'max(wdb(Av))'
*** Transition Frequency
.extract AC label=fT 'xthres(wdb(Av),0)'
*** Phase Margin
.extract AC label=Phase_Margin '180 - yval(wp(Av),1) + xycond(wp(Av),wdb(Av)<0)'

*** Bode diagram (amplitude and phase)
.plot AC w(Av)
#endif




***** CLOSED-LOOP AC *****

#if (defined (CL)) 
.AC dec 100 fmin fmax
.LSTB VSTB

.extract AC label=Av0 'max(lstb_db)'
.extract AC label=fT 'xthres(lstb_db,0)'
.extract AC label=Phase_Margin '180 - yval(lstb_p,1) + xycond(lstb_p,lstb_db<0)'
.plot ac lstb_db lstb_p
#endif